US06340670B1
α-Hydroxy-2-nitro-p-tolunitrile
A stirred solution containing α-bromo-2-nitro-p-tolunitrile (1.228 g, 5.095 mmol) and sodium formate (0.8664 g, 12.74 mmol) in ethanol:water (4:1, 25 mL) was refluxed for 2 h. The reaction was cooled to room temperature, diluted with 20% CH2Cl2/EtOAc, washed with H2O (3×), dried (MgSO4) and concentrated. Purification by flash chromatography (1,2 and 3% MeOH/CHCl3 gradient) gave 0.695 g (77%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ4.71 (d, 2 H), 5.75 (t, 1 H), 7.89 (dd, J=7.9 Hz, 1 H), 8.14 (d, J=7.9 Hz, 1 H), 8.32 (s, 1 H).

reactant | α-bromo-2-nitro-p-tolunitrile | 5.095 mmol, 1.228 g | BrCC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C8H5BrN2O2
reactant | sodium formate | 12.74 mmol, 0.8664 g | C(=O)[O-].[Na+]
solvent | ethanol water | 25 mL | C(C)O.O
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | α-Hydroxy-2-nitro-p-tolunitrile | 0.695 g, 77% | OCC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C8H6N2O3
